US06949542B2
{5-Isobutylamino-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(isobutyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J18) (347 mg, 1.0 mmol) and 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester (Example K2) (297 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow solid (570 mg, 100%).

reactant | [2-amino-5-(isobutyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 1.0 mmol, 347 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NCC(C)C)C(F)(F)F)N)=O | C16H24F3N3O2
reactant | 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 297 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O | C18H19NO3
product | {5-Isobutylamino-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NCC(C)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O)=O | C30H33F3N4O4
